US03950528
3-Amino-1-(3-bromo-4-chlorobenzyl)-pyrazol-5-one ##SPC18##
49 g of β-amino-β-ethoxyacrylic acid ethyl ester and 2 g of p-toluenesulphonic acid were dissolved in 225 ml of ethanol and 72 g of 3-bromo-4-chlorobenzylhydrazine were added under nitrogen. After standing overnight, the compound identified above had settled out as a precipitate and was filtered off and recrystallised twice from ethanol. Melting point: 171°-172°C, 40 g (43%).

reactant | β-amino-β-ethoxyacrylic acid ethyl ester | 49 g | C(C)OC(C=C(OCC)N)=O | C7H13NO3
reactant | p-toluenesulphonic acid | 2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 3-bromo-4-chlorobenzylhydrazine | 72 g | BrC=1C=C(CNN)C=CC1Cl | C7H8BrClN2
solvent | ethanol | 225 ml | C(C)O | C2H6O
product | 3-Amino-1-(3-bromo-4-chlorobenzyl)-pyrazol-5-one | NC=1NN(C(C1)=O)CC1=CC(=C(C=C1)Cl)Br | C10H9BrClN3O
